US07846959B2
A solution of methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate (420 mg, 1.39 mmol) in a mixture of terahydrofuran-ethyl acetate (1:1, 20 mL) was hydrogenated over 10% Pd—C (10 mg) for 18 h. The catalyst removed by filtration and the filtrate concentrated to give methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate (370 mg, 98%) as a brown powder. MS (EI) for C15H14N2O3: 293 (MNa+).

reactant | methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate | 1.39 mmol, 420 mg | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C15H12N2O5
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate | 370 mg, 98% | NC=1C=C(C=CC1N)C(=O)C1=C(C(=O)OC)C=CC=C1 | C15H14N2O3
